US06261738B1
6.3 g (0.029 mol) of 2,2,2-trifluoro-1-(2,4,6-trimethylphenyl)-ethanone are dissolved in 30 ml of ethanol at 80° C. To the solution are added dropwise 2.0 g (0.029 mol) of hydroxylammonium chloride and 4.1 g (0.050 mol) of sodium acetate dissolved in 15 ml of water. The reaction mixture is refluxed overnight, poured into ice water, and extracted with ethyl acetate. The organic phase is washed with brine, dried over MgSO4, and concentrated. The residue is purified by recrystallization from 20 ml of hexane, yielding 1.9 g of 2,2,2-trifluoro-1-(2,4,6-trimethylphenyl)-ethanone oxime in the form of white crystals, mp. 119-125° C.

reactant | 2,2,2-trifluoro-1-(2,4,6-trimethylphenyl)-ethanone | 0.029 mol, 6.3 g | FC(C(=O)C1=C(C=C(C=C1C)C)C)(F)F | C11H11F3O
reactant | hydroxylammonium chloride | 0.029 mol, 2.0 g | [Cl-].O[NH3+]
reactant | sodium acetate | 0.050 mol, 4.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 2,2,2-trifluoro-1-(2,4,6-trimethylphenyl)-ethanone oxime | 1.9 g | FC(C(=NO)C1=C(C=C(C=C1C)C)C)(F)F | C11H12F3NO
